US07662771B2
Add solution of sodium hydroxide (1.60 g, 40.0 mmol) in water (30 mL) to a solution of 7-(4-phenyloxazol-2-yl)heptanoic acid methyl ester (5.75 g, 20.0 mmol) in methanol (40 mL) at room temperature and heat the mixture at 40° C. for 2 hours. Adjust the pH of the mixture to 2 with 1 N HCl and extract with ethyl acetate (600 mL). Wash the organic extract with water (3×150 mL), dry over sodium sulfate and remove the solvent under reduced pressure. Triturate the residue with hexanes/ethyl acetate and collect the solids by filtration to provide 7-(4-phenyloxazol-2-yl)heptanoic acid (5.01 g, 91%): APCI mass spectrum m/z 272 [C16H19NO3−H]−.

reactant | sodium hydroxide | 40.0 mmol, 1.60 g | [OH-].[Na+]
reactant | 7-(4-phenyloxazol-2-yl)heptanoic acid methyl ester | 20.0 mmol, 5.75 g | COC(CCCCCCC=1OC=C(N1)C1=CC=CC=C1)=O | C17H21NO3
reactant | HCl | 1 N | Cl | ClH
solvent | water | 30 mL | O | H2O
solvent | methanol | 40 mL | CO | CH4O
product | 7-(4-phenyloxazol-2-yl)heptanoic acid | 5.01 g, 91% | C1(=CC=CC=C1)C=1N=C(OC1)CCCCCCC(=O)O | C16H19NO3
